US04277501
N,N-Dimethyl-4-(4-nitrophenyl)butylamine
The solid thus formed was added portion-wise over one hour to a stirred solution of 275 ml. of a 0.94 molar solution of borane in tetrahydrofuran.Following complete addition of the solid, the reaction mixture was heated at reflux for twelve hours, and then cooled to 0° C. in an ice bath. The reaction mixture was diluted by the dropwise addition of 75 ml. of 2 N hydrochloric acid. The reaction solvent was then removed by evaporation under reduced pressure, and the residue was dissolved in 100 ml. of concentrated hydrochloric acid and heated at reflux for one hour. The acidic mixture then was cooled and made alkaline by the addition of 5 N sodium hydroxide. The alkaline solution was extracted several times withdiethyl ether, and the ethereal extracts were combined, washed with water and dried. Removal of the solvent by evaporation under reduced pressure afforded 18.4 g. of N,N-dimethyl-4-(4-nitrophenyl)butylamine. The amine thus formed was dissolved in diethyl ether containing hydrogen chloride, whereupon a solid precipitate formed. Crystallization of the precipitate from 150 ml. isopropanol afforded 18.1 g. of N,N-dimethyl-4-(4-nitrophenyl)butylaminium chloride. M.P. 143°-145° C.

reactant | hydrogen chloride | Cl | ClH
reactant | N,N-dimethyl-4-(4-nitrophenyl)butylaminium chloride | [Cl-].C[NH+](C)CCCCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Dimethyl-4-(4-nitrophenyl)butylamine | CN(C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O2
